US06956049B1
Sodium hydride (120 mg of a 60% suspension in mineral oil, 3.0 mmol) was slurried in DME (6 mL) and cooled to 0° C. Diethyl benzylphosphonate (1.1 g, 5.0 mmol) was added dropwise and after 15 minutes, 2-methyl-1,3-thiazole-4-carbaldehyde (320 mg, 2.5 mmol) in DME (5 mL) was added dropwise to the reaction mixture. After 3 h at 0° C. the reaction mixture was diluted with ethyl acetate (10 mL) and washed with saturated aqueous NH4Cl (10 mL), saturated aqueous NaHCO3 (10 mL), brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with 90:10 hexane:ethyl acetate to afford 2-methyl-4-[(E)-2-phenylethenyl]-1,3-thiazole (330 mg, 65% yield) as an oil. 1H NMR (CDCl3, 300 MHz) δ 7–7.5 (m, 8H), 2.7 (s, 3H). MS (ESI) 202.1 (M++H).

reactant | Sodium hydride | [H-].[Na+]
reactant | Diethyl benzylphosphonate | 5.0 mmol, 1.1 g | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | 2-methyl-1,3-thiazole-4-carbaldehyde | 2.5 mmol, 320 mg | CC=1SC=C(N1)C=O | C5H5NOS
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-methyl-4-[(E)-2-phenylethenyl]-1,3-thiazole | 330 mg, 65% yield | CC=1SC=C(N1)\C=C\C1=CC=CC=C1 | C12H11NS
